US04588746
The reaction mixture is stirred for 1/2 hour at the same temperature, a solution of 179 g of hexamethylphosphoramide in 200 ml of tetrahydrofuran is added and stirring is continued for 1/2 hour at -78°. At the same temperature a solution of 125 g of methyl N,N-dimethylaminopropionate in 200 ml of tetrahydrofuran is then added dropwise and stirring is continued for 20 minutes. A solution of 171 g of benzyl bromide in 300 ml of tetrahydrofuran is then added, again at -78°. The solution is stirred at this temperature for 2 hours and then quenched, first with 250 ml of saturated aqueous ammonium chloride and then 250 ml of saturated aqueous sodium chloride solution. To this is added 1500 ml of ether. The layers are separated and the aqueous layer is extracted with 4×200 ml of ether. The ether extract is dried over magnesium sulfate and evaporated to dryness. The resulting oil is redissolved in 300 L ml of ether, the ether solution is washed with 100 ml of water and the aqueous layer is reextracted with 3×100 ml ether. The combined ether solutions are dried over magnesium sulfate and evaporated to dryness in yield an oil which is purified by fractional distillation to yield pure methyl 2-benzyl-3-dimethylaminopropionate, b.p. 104°/0.2-0.4 mm Hg.

reactant | hexamethylphosphoramide | 179 g | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | methyl N,N-dimethylaminopropionate | 125 g | CN(C)C(C(=O)OC)C | C6H13NO2
reactant | benzyl bromide | 171 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | methyl 2-benzyl-3-dimethylaminopropionate | C(C1=CC=CC=C1)C(C(=O)OC)CN(C)C | C13H19NO2
